** sch_path: /workspaces/bandgaps/bandgaps/bandgap_sky130_v1/bandgap_1v_v01/bandgap_1v_v01.sch
.subckt bandgap_1v_v01 porst vbg VDD GND
*.iopin vbg
*.iopin VDD
*.iopin GND
*.iopin porst
XQ2 GND GND Veb sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1
Vr4 Vb net2 0
.save i(vr4)
Vr2 Vb net1 0
.save i(vr2)
Vr1 Va net3 0
.save i(vr1)
Vq2 Va Veb 0
.save i(vq2)
XQ1 GND GND vbneg sky130_fd_pr__pnp_05v5_W3p40L3p40 m=39
XR1 GND net3 GND sky130_fd_pr__res_xhigh_po_0p35 L=21.839 mult=1 m=1
XR2 GND net2 GND sky130_fd_pr__res_xhigh_po_0p35 L=21.839 mult=1 m=1
XR3 vbneg net1 GND sky130_fd_pr__res_xhigh_po_0p35 L=3.763 mult=1 m=1
XR6 GND vbg GND sky130_fd_pr__res_xhigh_po_0p35 L=17.38 mult=1 m=1
C2 Va GND 20p m=1
Vm1 net5 Va 0
.save i(vm1)
Vm2 net4 Vb 0
.save i(vm2)
XM1 net5 vgate VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=386.6 m=386.6
XM2 net4 vgate VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=386.6 m=386.6
XM10 vgate porst GND GND sky130_fd_pr__nfet_01v8_lvt L='2' W='1' nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=34 m=34
Vm3 net6 vbg 0
.save i(vm3)
XM3 net6 vgate VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=386.6 m=386.6
x1 Va Vb vgate VDD GND amplifier_v01
.ends

* expanding   symbol:  amplifier_v01.sym # of pins=5
** sym_path: /workspaces/bandgaps/bandgaps/bandgap_sky130_v1/amplifier_v01/amplifier_v01.sym
** sch_path: /workspaces/bandgaps/bandgaps/bandgap_sky130_v1/amplifier_v01/amplifier_v01.sch
.subckt amplifier_v01 plus minus vout VDD GND
*.ipin plus
*.ipin minus
*.opin vout
*.iopin VDD
*.iopin GND
XM5 vout plus Vq GND sky130_fd_pr__nfet_01v8_lvt L='2' W='1' nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=26.95 m=26.95
XM6 Vq Vx GND GND sky130_fd_pr__nfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3.65 m=3.65
XM9 vg minus Vq GND sky130_fd_pr__nfet_01v8_lvt L='2' W='1' nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=26.95 m=26.95
XM7 Vx Vx GND GND sky130_fd_pr__nfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3.65 m=3.65
XM13 Vx vout VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=77.32 m=77.32
XM4 vg vg VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=38.66 m=38.66
XM8 vout vg VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=38.66 m=38.66
.ends

.GLOBAL VDD
.GLOBAL GND
.end
